US05927288
A magnesium bicarbonate solution was prepared from hydromagnesite (15.0 g) and magnesium acetate (17.0 g) in water (circa 1000 mL) by bubbling carbon dioxide through the aqueous suspension overnight. [Minor residual undissolved solids derived from the hydromagnesite used were not removed by filtration.] The resulting solution was heated to 50° C. with magnetic stirring and aqueous KOH was added while continuing the magnetic stirring. Five different experiments were run, and in each case, the amount of KOH was varied and the final pH was measured and is shown in Table II. The precipitate was filtered and dried in an oven at about 110° C., resulting in a solid material which was examined by TGA to determine the hydromagnesite/magnesium hydroxide ratio, and by SEM to determine the morphology and size of product. The materials were also evaluated for their ease in filtration. These results are summarized in Table II. The X-ray powder pattern of brucite was not observed in the X-ray powder patterns (XRD) of the samples with pH<10.6, indicating that the magnesium hydroxide has a very small crystalline size, i.e., <50 Å. The XRD of the sample at pH=10.61 showed broad brucite peaks. SEM analysis of these samples showed neither spheres nor rosettes, due to the agitation during the base addition.

reactant | magnesium acetate | 17.0 g | C(C)(=O)[O-].[Mg+2].C(C)(=O)[O-]
solvent | water | circa 1000 mL | O | H2O
product | magnesium bicarbonate | C([O-])(O)=O.[Mg+2].C([O-])(O)=O | InChI=1S/2CH2O3.Mg/c2*2-1(3)4;/h2*(H2,2,3,4);/q;;+2/p-2
